US04288437
(E)-2-{[(Cyclopropyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one
Prepared as in Example 31 with a yield of 25% of theory from 2-benzoyl-benzo[b]thiophen-3-ol and cyclopropylamine. Egg-yellow crystals, m.p. 131°-132° C. (petroleum ether/ethyl acetate 1:1).

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (E)-2-{[(Cyclopropyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one | yield of 25% | C1(CC1)N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C18H15NOS
